US06281355B1
To a solution of 0.98 g of N-t-butoxycarbonyl-(2-cyanophenyl)alanine dihexylamide in 1.7 ml of dichloromethane was added 1.7 ml of trifluoroacetic acid, followed by stirring at room temperature for 1.5 hours. The reaction solution was concentrated under reduced pressure, and to the residue was added an aqueous sodium bicarbonate solution, followed by extracting with dichloromethane. The extract was washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure to give 0.76 g of a crude (2-cyanophenyl)alanine dihexylamide, which was then used for the next step without purification.

reactant | N-t-butoxycarbonyl-(2-cyanophenyl)alanine dihexylamide | 0.98 g | C(CCCCC)N(C([C@@H](N(C(=O)OC(C)(C)C)C1=C(C=CC=C1)C#N)C)=O)CCCCCC | C27H43N3O3
reactant | trifluoroacetic acid | 1.7 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.7 ml | ClCCl | CH2Cl2
product | (2-cyanophenyl)alanine dihexylamide | 0.76 g | C(CCCCC)N(C([C@@H](NC1=C(C=CC=C1)C#N)C)=O)CCCCCC | C22H35N3O
